US06335341B1
To a mixture of 1-tert-butyloxycarbonyl-3-oxo-4-[1-(benzyloxycarbonyl)-4-piperidylmethyl]piperazine (1.35 g), palladium on charcoal (10% w/w, 0.1 g) and ethanol (20 ml) was agitated under an atmosphere of hydrogen at 25° C. for 2 hours until hydrogen uptake was complete. The mixture was filtered and the filtrate was evaporated to give an oil which was mixed with 2,4-dichloro-6-methylpyrimidine(502 mg), ethanol (20 ml) and triethylamine (0.86 ml), heated to reflux for 18 hours. The cooled mixture was evaporated then diluted with dichloromethane and washed with water, dried (Na2SO4) then filtered onto a silica column (10 g Bond Elut) eluting with 0-5% methanol in dichloromethane to give 1-tert-butyloxycarbonyl-3-oxo-4-[1-(2-methyl-6-chloropyrimidin-4-yl )-4piperidylmethyl]piperazine (1.01 g).

reactant | 1-tert-butyloxycarbonyl-3-oxo-4-[1-(benzyloxycarbonyl)-4-piperidylmethyl]piperazine | 1.35 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)CC1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O | C23H33N3O5
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
reactant | 2,4-dichloro-6-methylpyrimidine | 502 mg | ClC1=NC(=CC(=N1)Cl)C | C5H4Cl2N2
reactant | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.1 g | [Pd] | Pd
solvent | triethylamine | 0.86 ml | C(C)N(CC)CC | C6H15N
product | 1-tert-butyloxycarbonyl-3-oxo-4-[1-(2-methyl-6-chloropyrimidin-4-yl )-4piperidylmethyl]piperazine | 1.01 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)CC1CCN(CC1)C1=NC(=NC(=C1)Cl)C)=O | C20H30ClN5O3
